US05344955
To a 250 ml flask is charged 6.6 gm (0.1 mole) of malononitrile, 8.9 gm (0.1 mole) of sodium dicyanamide and 40 ml of dimethyl formamide. The stirred mixture is heated to reflux (168° C.) and held 15 minutes; then cooled to about room temperature. Then 150 ml 2-butanol is added and the stirred mixture is cooled in an ice bath. The solids are filtered, washed with 2-butanol and dried overnight in a vacuum oven. There is obtained 11.4 gm of 1-amino-1-cyanamido-2,2-dicyanoethylene, sodium salt, 81.2% pure, or a 59.7% yield.

reactant | malononitrile | 0.1 mole, 6.6 gm | C(CC#N)#N | C3H2N2
reactant | sodium dicyanamide | 0.1 mole, 8.9 gm | [N-](C#N)C#N.[Na+]
reactant | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
solvent | 2-butanol | 150 ml | CC(CC)O | C4H10O
product | 1-amino-1-cyanamido-2,2-dicyanoethylene | 11.4 gm, 59.7% yield | NC(=C(C#N)C#N)NC#N | C5H3N5
